US08217065B2
B. 2-(2,6-Dichloro-phenyl)-N-hydroxy-3H-benzoimidazole-5-carboxamidine
To a 25 ml rbf was added 0.100 g (0.347 mmol) of 2-(2,6-Dichloro-phenyl)-3H-benzoimidazole-5-carbonitrile, 2 mL of EtOH, 0.0482 g (0.694 mmol) of hydroxyl amine HCl, and 0.048 mL (0.694 mmol) of Et3N. It was allowed stir at 80° C., under reflux, for 4 h. It was reduced in vacuo and the crude was used directly in the next reaction. MS (m/z) 321.1 M (+1), tR=0.93, Meth 10

reactant | 2-(2,6-Dichloro-phenyl)-3H-benzoimidazole-5-carbonitrile | 0.347 mmol, 0.100 g | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C#N | C14H7Cl2N3
reactant | hydroxyl amine HCl | 0.694 mmol, 0.0482 g | Cl.ON
reactant | Et3N | 0.694 mmol, 0.048 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-(2,6-Dichloro-phenyl)-N-hydroxy-3H-benzoimidazole-5-carboxamidine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=N)NO | C14H10Cl2N4O
